US06355635B1
2-(4-Isopropyl-piperazin-1-yl)-isonicotinonitrile:
To a solution of 2-piperazin-1-yl-isonicotinonitrile (10 g, 53 mmol), glacial acetic acid (4.26 ml, 4.5 g, 74.4 mmol, 1.4 equiv) and acetone (4.29 ml, 3.39 g, 58 mmol, 1.1 equiv) in anhydrous dichloromethane was added sodium triacetoxyborohydride (13.5 g, 63.8 mmol, 1.2 equiv). The reaction was stirred overnight, then an aqueous solution of 1 N NaOH solution was added (150 ml) and the mixture was extracted once with dichloromethane, then twice with a solution of 10% methanol/dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Purification of the residue by flash column chromatography (5% methanol/CH2Cl2 grading to 10% methanol/CH2Cl2) provided the desired product (6.52 g, 59%).

reactant | 2-piperazin-1-yl-isonicotinonitrile | 53 mmol, 10 g | N1(CCNCC1)C=1C=C(C#N)C=CN1 | C10H12N4
reactant | acetic acid | 74.4 mmol, 4.26 ml, 4.5 g, 1.4 equiv | C(C)(=O)O | C2H4O2
reactant | acetone | 58 mmol, 4.29 ml, 3.39 g, 1.1 equiv | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 63.8 mmol, 13.5 g, 1.2 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-Isopropyl-piperazin-1-yl)-isonicotinonitrile | 6.52 g, 59% | C(C)(C)N1CCN(CC1)C=1C=C(C#N)C=CN1 | C13H18N4
